US04524122
3A. Synthesis of 2-Anilinoethyl Acetate Hydro-chloride Intermediate
2-Anilinoethanol (137 g, 1.0 mol) was mixed with acetonitrile (300 ml) and concentrated hydrochloric acid (100 ml), and the reaction mixture was evaporated to dryness. The residue was dissolved in acetonitrile (1000 ml); acetyl chloride (89 ml, 1.25 mol) was added and the reaction mixture was stirred at room temperature (22° C.) for 16 hours. The mixture was evaporated to dryness under reduced pressure and the resulting solid was triturated with ethyl ether (1000 ml). The solid was removed by filtration and dried to yield 197 g (91.3%) of product.

reactant | 2-Anilinoethanol | 1.0 mol, 137 g | N(C1=CC=CC=C1)CCO | C8H11NO
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | acetyl chloride | 1.25 mol, 89 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-Anilinoethyl Acetate Hydro-chloride | 197 g, 91.3% | Cl.C(C)(=O)OCCNC1=CC=CC=C1 | InChI=1S/C10H13NO2.ClH/c1-9(12)13-8-7-11-10-5-3-2-4-6-10;/h2-6,11H,7-8H2,1H3;1H
